US04143055
N-(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)phenacylsulfonamide
To a solution of 15.5 grams of 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine and 10.5 grams of anhydrous pyridine in 100 cc of methylene chloride cooled to 0°-5° C., a solution of 24.5 grams of phenacylsulfonyl chloride in 80 cc of methylene chloride is added. When the dripping is terminated the reaction mixture is warmed to room temperature and stirred for 5 hours. At the end of this time the solution is washed with water, dried over sodium sulfate and concentrated to dryness. Crystallization of the resulting thick oil from ethyl alcohol-ethyl ether gives 16 grams of the compound of the title which melts at 143°-145° C.

reactant | 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine | 15.5 grams | COC=1C=C2C(CC(O2)C)=C(C1)N | C10H13NO2
reactant | pyridine | 10.5 grams | N1=CC=CC=C1 | C5H5N
reactant | phenacylsulfonyl chloride | 24.5 grams | C(C(=O)C1=CC=CC=C1)S(=O)(=O)Cl | C8H7ClO3S
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 cc | C(Cl)Cl | CH2Cl2
product | N-(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)phenacylsulfonamide | 16 grams | COC1=CC2=C(CC(O2)C)C(=C1)NS(=O)(=O)CC(=O)C1=CC=CC=C1 | C18H19NO5S
